US05169843
7-[2-(2-Aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-[3,4-dioxo-2-(2-propoxy)-1-cyclobutenyl]-3-cephem-4-carboxylic acid (Id3)
Diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-[3,4-dioxo-2-(2-propoxy)-1-cyclobutenyl]-3-cephem-4-carboxylate (33 mg) was added to a stirred, cooled (ice/H2O bath) solution of trifluoroacetic acid (100 μL) and anisole (50 μL). The cooling bath was removed, and stirring was continued for 1 hr at ambient temperatures. The solution was diluted with diethyl ether to precipitate the trifluoroacetic acid salt of the title compound as a yellow powder.

reactant | Diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-[3,4-dioxo-2-(2-propoxy)-1-cyclobutenyl]-3-cephem-4-carboxylate | 33 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)OC(C)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C33H29N5O8S2
reactant | trifluoroacetic acid | 100 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 50 μL | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-(2-Aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-[3,4-dioxo-2-(2-propoxy)-1-cyclobutenyl]-3-cephem-4-carboxylic acid | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)OC(C)C)C(=O)O)C1=O)=N/OC | C20H19N5O8S2
